US07101891B2
9-Chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide
Add iodotrimethylsilane (1.87 mL, 13.16 mmol) to a solution of 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid methyl ester (2.06 g, 5.48 mmol) in dichloromethane (40 mL). Stir the solution at room temperature under nitrogen overnight. Add methanol (3.2 mL, 78.93 mmol) dropwise, and stir the reaction at room temperature for 30 minutes. Concentrate the reaction, add to diethyl ether, sonicate, and filtere. Dry the solids on a vacuum pump to give 2.36 g of the title compound as a tan solid, 97% yield. 1H NMR: consistent with structure. MS (ion spray) 318 (M+).

reactant | iodotrimethylsilane | 13.16 mmol, 1.87 mL | I[Si](C)(C)C | C3H9ISi
reactant | 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid methyl ester | 5.48 mmol, 2.06 g | COC(=O)N1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C18H18ClN3O4
reactant | methanol | 78.93 mmol, 3.2 mL | CO | CH4O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 9-Chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 2.36 g, 97% yield | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C | InChI=1S/C16H16ClN3O2.HI/c1-9-13-15(19-22-9)14-11(17)5-2-6-12(14)20(16(13)21)10-4-3-7-18-8-10;/h2,5-6,10,18H,3-4,7-8H2,1H3;1H
